US05317016
To a solution of (2S,4R)-1-p-methoxybenzyloxycarbonyl-4-hydroxypyrrolidine-2-methanol (64 g: 227.6 mmole) in pyridine (350 ml), p-toluenesulfonyl chloride (48 g) is added. The mixture is stirred at room temperature for 4 hours. The reaction mixture is poured into ice water and extracted with ethyl acetate. The extract is successively washed with water, dilute hydrochloric acid and aqueous sodium hydrogen carbonate, dried over magnesium sulfate, and concentrated in vacuo. The residue is purified by silica gel column chromatography to give (2S,4R)-1-p-methoxybenzyloxycarbonyl-4-hydroxypyrrolidine-2-methanol p-toluenesulfonate (60 g). NMR δ(CDCl3) ppm: 2.0 to 2.4(m, 2H), 2.44(s, 3H), 3.3 to 3.7(m, 2H), 3.82(s, 3H), 3.9 to 4.6(m, 4H), 4.8 to 5.1(m, 2H), 6.88(d, J=8.6 Hz, 2H),7.2 to 7.4(m, 4H), 7.6 to 7.8(m, 2 H). IR ν (CHCl3) cm-1 : 3446, 1693.

reactant | (2S,4R)-1-p-methoxybenzyloxycarbonyl-4-hydroxypyrrolidine-2-methanol | 227.6 mmole, 64 g | COC1=CC=C(COC(=O)N2[C@@H](C[C@H](C2)O)CO)C=C1 | C14H19NO5
reactant | p-toluenesulfonyl chloride | 48 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 350 ml | N1=CC=CC=C1 | C5H5N
product | (2S,4R)-1-p-methoxybenzyloxycarbonyl-4-hydroxypyrrolidine-2-methanol p-toluenesulfonate | 60 g | C1(=CC=C(C=C1)S(=O)(=O)OC[C@H]1N(C[C@@H](C1)O)C(=O)OCC1=CC=C(C=C1)OC)C | C21H25NO7S
